US07119201B2
4-(4-Methoxyphenoxy)benzamide
4-(4-Cyanophenoxy)-methoxybenzene (7.66 g, 34 mmol) and water (6.13 g, 340 mmol) in methanesulfonic acid (32.7 g) were heated to 80° C. for 16 hours. The cooled mixture was poured onto ice/water and after stirring for 1 hour the solid was collected and air dried yielding 8.4 g of 4-(4-methoxyphenoxy)benzamideas a white solid. GC-MS (m/z, EI): 243 [M]+.

reactant | 4-(4-Cyanophenoxy)-methoxybenzene | 34 mmol, 7.66 g | C(#N)C1=CC=C(OC2=CC=C(C=C2)OC)C=C1 | C14H11NO2
reactant | water | 340 mmol, 6.13 g | O | H2O
solvent | methanesulfonic acid | 32.7 g | CS(=O)(=O)O | CH4O3S
product | 4-(4-Methoxyphenoxy)benzamide | COC1=CC=C(OC2=CC=C(C(=O)N)C=C2)C=C1 | C14H13NO3
